US04939261
To a solution of 0.01 mole of 3-aminopropionic acid and 0.01 mole of (R*,R*)-4-ethoxycarbonyl-2,4-dibenzylbutyric acid in 40 ml of methylene chloride are added 0.01 mole of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and 0.01 mole of triethylamine. The reaction mixture is stirred at room temperature for 3 days. Diethyl ether (250 ml) is added and the mixture is washed with 25 ml of water, 25 ml of 2N aqueous hydrochloric acid and 25 ml of saturated aqueous sodium bicarbonate solution. The organic layer is dried over magnesium sulfate and evaporated to give N-[4-ethoxycarbonyl-(R*,R*)-2,4-dibenzylbutyryl]-3-aminopropionic acid, the compound of example 5(a).

reactant | 3-aminopropionic acid | 0.01 mole | NCCC(=O)O | C3H7NO2
reactant | (R*,R*)-4-ethoxycarbonyl-2,4-dibenzylbutyric acid | 0.01 mole | C(C)OC(=O)[C@H](C[C@@H](C(=O)O)CC1=CC=CC=C1)CC1=CC=CC=C1 | C21H24O4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.01 mole | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 0.01 mole | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | Diethyl ether | 250 ml | C(C)OCC | C4H10O
product | N-[4-ethoxycarbonyl-(R*,R*)-2,4-dibenzylbutyryl]-3-aminopropionic acid | C(C)OC(=O)[C@H](C[C@@H](C(=O)NCCC(=O)O)CC1=CC=CC=C1)CC1=CC=CC=C1 | C24H29NO5
